US08030334B2
A flask is charged with N-[5-(6-chloro-1H-indol-2-yl)-pyridin-3-ylmethyl]-methanesulfonamide (670 mg, 1.49 mmol), DMF (10 mL), dimethyl carbonate (403 mg, 4.47 mmol) and potassium carbonate (319 mg, 2.31 mmol), and the mixture is stirred at 150° C. for 5 h. The mixture is cooled to room temperature and purified using Xbridge C18 eluting with a 1:9 to 9:1 acetonitrile-water gradient to give N-[5-(6-chloro-1H-indol-2-yl)-pyridin-3-ylmethyl]-N-methyl-methanesulfonamide. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.74 (s, 3H), 3.02 (s, 3H), 4.35 (s, 2H), 7.04 (dd, J=8.5, 1.9 Hz, 1H), 7.09 (d, J=1.5 Hz, 1H), 7.43 (d, J=1.8 Hz, 1H), 7.59 (d, J=8.6 Hz, 1H), 8.14 (t, J=2.1 Hz, 1H), 8.47 (d, J=2.0 Hz, 1H), 9.05 (d, J=2.3 Hz, 1H), 11.92 (s, 1H). HRMS (ESI) m/z 350.0738 [(M+H)+ Calcd for C16H17ClN3O2S: 350.0730].

reactant | N-[5-(6-chloro-1H-indol-2-yl)-pyridin-3-ylmethyl]-methanesulfonamide | 1.49 mmol, 670 mg | ClC1=CC=C2C=C(NC2=C1)C=1C=C(C=NC1)CNS(=O)(=O)C | C15H14ClN3O2S
reactant | dimethyl carbonate | 4.47 mmol, 403 mg | C(OC)(OC)=O | C3H6O3
reactant | potassium carbonate | 2.31 mmol, 319 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-[5-(6-chloro-1H-indol-2-yl)-pyridin-3-ylmethyl]-N-methyl-methanesulfonamide | ClC1=CC=C2C=C(NC2=C1)C=1C=C(C=NC1)CN(S(=O)(=O)C)C | C16H16ClN3O2S
